US04486444
Step B: Preparation of 2-Benzylmercapto-5-(4-methoxybenzoyl)thiophene
Benzyl mercaptan (1.24 g, 0.01 mol) was added to a stirred mixture of sodium hydride (50% oil dispersion, 0.44 g, 0.11 mol) and degassed DMF (10 mL). The resulting mixture was warmed cautiously until gas evolution ceased. After cooling to 25° C., a solution of 2-bromo-5-(4-methoxybenzoyl)thiophene (2.97 g, 0.01 mol) in DMF (10 mL) was added dropwise. After complete addition, the mixture was heated on the steam bath for 2.5 hours and poured into waTER (200 mL). The aqueous mixture was extracted with ether (2×200 mL) and the extracts were washed with water, saturated NaCl solution and dried (Na2SO4). After evaporation of the solvent, the residue was collected with the aid of hexane and dried, 1.98 g, m.p. 103°-105° C.

reactant | Benzyl mercaptan | 0.01 mol, 1.24 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | 0.11 mol, 0.44 g | [H-].[Na+]
reactant | 2-bromo-5-(4-methoxybenzoyl)thiophene | 0.01 mol, 2.97 g | BrC=1SC(=CC1)C(C1=CC=C(C=C1)OC)=O | C12H9BrO2S
reactant | waTER | 200 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Benzylmercapto-5-(4-methoxybenzoyl)thiophene | C(C1=CC=CC=C1)SC=1SC(=CC1)C(C1=CC=C(C=C1)OC)=O | C19H16O2S2
